US08183275B2
A mixture of 2-(1-cyclopropyl-1-methylethyl)malonic acid diethyl ester (5.10 g, 21.2 mmol), lithium chloride (1.79 g, 42.2 mmol), water (0.5 mL) and DMSO (40 mL) was heated at 170° C. for 24 h, and then poured into ice-water. The product was extracted with ethyl acetate (3×200 mL), and the extracts were washed with brine (200 mL), dried over sodium sulfate and concentrated to give 3-cyclopropyl-3-methylbutyric acid ethyl ester, which was used without further purification.

reactant | 2-(1-cyclopropyl-1-methylethyl)malonic acid diethyl ester | 21.2 mmol, 5.10 g | C(C)OC(C(C(=O)OCC)C(C)(C)C1CC1)=O | C13H22O4
reactant | lithium chloride | 42.2 mmol, 1.79 g | [Cl-].[Li+]
reactant | water | 0.5 mL | O | H2O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 3-cyclopropyl-3-methylbutyric acid ethyl ester | C(C)OC(CC(C)(C)C1CC1)=O | C10H18O2
